### ISSUE TITLE
dsimp doesn't pack raw `nat_lit`s into `OfNat.ofNat` invocations

### ISSUE THREAD

**Issue by timotree3** [leanprover/lean4#2916]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

Currently, `simp` has special logic to normalize `nat_lit n` in the target into `@OfNat.ofNat Nat (nat_lit n) _`. This conversion is a defeq, so it should be supported by `dsimp`.

```lean
set_option pp.coercions false -- Show `OfNat.ofNat` when present for clarity

example : nat_lit 2 = sorry := by
  -- ⊢ 2 = sorryAx Nat
  simp only
  -- ⊢ OfNat.ofNat 2 = sorryAx Nat
  -- (as expected)

example : nat_lit 2 = sorry := by
  dsimp only -- dsimp made no progress
  -- expected: same result as simp

-- simp delegates to dsimp for subexprs with forward dependencies
example (α : Nat → Type) (f : (n : Nat) → α n): f (nat_lit 2) = sorry := by
  simp only -- simp made no progress
  -- expected: ⊢ f (OfNat.ofNat 2) = sorryAx Nat
```

### Context

This has particular implications for any meta code which uses `simp` to produce theorem statements. Generally it is an invariant that declaration statements should only contain nat literals wrapped in `OfNat.ofNat`, and it is desirable that running `simp` on the statement guarantees this property, even in the presence of forward dependencies. For a concrete example, due to this bug, the code which generates simplification equations for well-founded definitions produces lemmas with LHSs containing raw nat literals:

```lean
/- Key ingredients:
  - Well-founded recursion (so equation lemmas are even generated)
  - Matching on a nat literal pattern (`0` below)
  - The conclusion type depends on the nat discriminant (so `dsimp` is used instead of `simp`)
  -/
@[simp] def wellFounded (n : Nat): { r : Nat // r = n } :=
  match n with
  | 0 => ⟨0, rfl⟩
  | n + 1 =>
    let _ := wellFounded (id n)
    ⟨n + 1, rfl⟩

#check wellFounded._eq_1
-- wellFounded._eq_1 : wellFounded 0 = { val := OfNat.ofNat 0, property := wellFounded.proof_3 }
--                                 ^ raw nat lit `0`
```

This particular issue with equation lemmas is represented by a test case added in https://github.com/leanprover/lean4/commit/2b8e55c2f19e6599128bc7e57cb7221df5693b4e, which mitigated its impact by making discrimination trees match `nat_lit 0` and `0` equivalently. I ran into this while attempting a fix for #2867, where it would result in cleaner code to be able to revert back to assuming that `nat_lit` does not appear in simp lemma statements.

### Steps to Reproduce

1. View infoview for MWE above
2. Compare goal state after `simp only` and `dsimp only`

**Expected behavior:** They both have converted `nat_lit 2` into `OfNat.ofNat (nat_lit 2)`

**Actual behavior:** Only `simp only` performs the conversion.

### Versions

4.3.0-rc2

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
